US08530468B2
5-Amino-3-(cyclopropylmethoxy)pyrazine-2-carbonitrile
To a solution of sodium hydride (93 mg, 3.882 mmol) in dioxane (4 mL) was added cyclopropylmethanol (280 mg, 3.882 mmol) dropwise. The solution was stirred for 30 minutes and then 5-amino-3-chloropyrazine-2-carbonitrile (300 mg, 1.941 mmol) was added and the reaction mixture heated at 90° C. for 14 hours. The reaction mixture was poured into aqueous HCl (1 M) and extracted with ethyl acetate. The aqueous layer was re-extracted with ethyl acetate. The combined organic layers were washed with brine, dried (Na2SO4) and concentrated to dryness to give the title compound (305 mg, 1.605 mmol, 83%) which was used in subsequent steps without further purification. LC-MS (3) Rt=1.49 min; m/z (ESI+) 191 (M+H+).

reactant | sodium hydride | 3.882 mmol, 93 mg | [H-].[Na+]
reactant | cyclopropylmethanol | 3.882 mmol, 280 mg | C1(CC1)CO | C4H8O
reactant | 5-amino-3-chloropyrazine-2-carbonitrile | 1.941 mmol, 300 mg | NC=1N=C(C(=NC1)C#N)Cl | C5H3ClN4
reactant | HCl | 1 M | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 5-Amino-3-(cyclopropylmethoxy)pyrazine-2-carbonitrile | 1.605 mmol, 305 mg, 83% | NC=1N=C(C(=NC1)C#N)OCC1CC1 | C9H10N4O
